US04732912
A solution of m-methoxyphenylacetic acid (1.33 g.) in tetrahydrofuran (10 ml.) was added to a stirred solution of lithium diisopropylamide, generated from diisopropylamine (2.1 ml.) and n-butyllithium (9.23 ml. of a 1.6 molar solution in hexane) in tetrahydrofuran (15 ml.), which was cooled to -70° C.; and the mixture was allowed to warm up to laboratory temperature, stirred at that temperature for 30 minutes and cooled to -70° C. A solution of 2-m-methoxyphenylethyl methanesulphonate (1.9 g.) in tetrahydrofuran (5 ml.) was added, the mixture was allowed to warm up to laboratory temperature and was stirred at that temperature for 18 hours, and water (50 ml.) was added. The mixture was washed with diethyl ether, acidified with aqueous 6N-hydrochloric acid and extracted three times with ethyl acetate (50 ml. each time). The combined extracts were washed with water, dried and evaporated to dryness and there was thus obtained as residue 2,4-bis-(m-methoxyphenyl)butyric acid.

reactant | m-methoxyphenylacetic acid | 1.33 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 2.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-m-methoxyphenylethyl methanesulphonate | 1.9 g | CS(=O)(=O)OCCC1=CC(=CC=C1)OC | C10H14O4S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 2,4-bis-(m-methoxyphenyl)butyric acid | COC=1C=C(C=CC1)C(C(=O)O)CCC1=CC(=CC=C1)OC | C18H20O4
